US06291455B1
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (3.6 g, 11.3 mmol), (prepared as described for the starting material in Example 4), 1 bromo-4-chlorobutane (1.95 ml, 16.9 mmol) and potassium carbonate (4.66 g, 33.8 mmol) in DMF (75 ml) was heated at 40° C. for 4 hours. The mixture was allowed to cool and was partitioned between methylene chloride and water. The aqueous layer was adjusted to pH7 with 2M hydrochloric acid. The organic layer was separated, washed with brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/ethyl acetate (1/1). The purified solid product was triturated with pentane, collected by filtration and dried under vacuum to give 7-(4-chlorobutoxy)-4(4chloro-2-fluoroanilino)-6-methoxyquinazoline (3.64 g, 79%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 11.3 mmol, 3.6 g | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | bromo-4-chlorobutane | 16.9 mmol, 1.95 ml | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 33.8 mmol, 4.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 7-(4-chlorobutoxy)-4(4chloro-2-fluoroanilino)-6-methoxyquinazoline | 3.64 g, 79% | ClCCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H18Cl2FN3O2
